US04603135
To a mixture of 1-piperazineethanol (11.4 g), potassium carbonate powder (24.3 g) and N,N-dimethylformamide (100 ml) was added dropwise benzhydryl bromide (21.7 g). The mixture was stirred at room temperature for 2 hours, then diluted with water and extracted with ethyl ether. The ethyl ether layer was washed with saturated aquus sodium chloride and dried over sodium sulfate. The solvent was then distilled off and the residue was purified by silica gel chromatography [eluent: hexane-ethyl acetate (2:1)] to give 21.9 g (84.2%) of 4-benzhydryl-1-piperazineethanol as an oil.

reactant | 1-piperazineethanol | 11.4 g | N1(CCNCC1)CCO | C6H14N2O
reactant | potassium carbonate | 24.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | benzhydryl bromide | 21.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
solvent | water | O | H2O
product | 4-benzhydryl-1-piperazineethanol | 21.9 g, 84.2% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCO | C19H24N2O
